US07981914B2
To a suspension of 5-amino-2′-methoxy-biphenyl-3-carboxylic acid methyl ester (7.2 g, 28 mmol) in trimethoxymethane (22.8 mL) was added NaN3 (5.7 g) followed by HOAc (285 mL). The reaction mixture was stirred at room temperature for 30 minutes, then stirred at 100° C. for three hours, and then stirred at room temperature for 18 hours. The resulting mixture was partitioned between water and methylene chloride, and the combined organic layers were washed with water, dried over Na2SO4, filtered and concentrated under reduced pressure to give 8.6 g of 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid methyl ester, MS (M+H)=311.

reactant | 5-amino-2′-methoxy-biphenyl-3-carboxylic acid methyl ester | 28 mmol, 7.2 g | COC(=O)C=1C=C(C=C(C1)N)C1=C(C=CC=C1)OC | C15H15NO3
reactant | NaN3 | 5.7 g | [N-]=[N+]=[N-].[Na+]
reactant | HOAc | 285 mL | CC(=O)O | C2H4O2
solvent | trimethoxymethane | 22.8 mL | COC(OC)OC | C4H10O3
product | 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid methyl ester | 8.6 g | COC(=O)C=1C=C(C=C(C1)N1N=NN=C1)C1=C(C=CC=C1)OC | C16H14N4O3
